US08049015B2
To (5-bromo-6-methoxy-pyridin-3-yl)-methanol (2.86 g, 13.1 mmol) in DME (30 mL) was added phosphorus tribromide (1.9 mL, 19.7 mmol), and the reaction was stirred for 15 minutes. The mixture was worked up with EtOAc and saturated aqueous NaHCO3, and the combined organic layers were dried over MgSO4, filtered, and concentrated to give 3-bromo-5-bromomethyl-2-methoxy-pyridine.

reactant | (5-bromo-6-methoxy-pyridin-3-yl)-methanol | 13.1 mmol, 2.86 g | BrC=1C=C(C=NC1OC)CO | C7H8BrNO2
reactant | phosphorus tribromide | 19.7 mmol, 1.9 mL | P(Br)(Br)Br | Br3P
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DME | 30 mL | COCCOC | C4H10O2
product | 3-bromo-5-bromomethyl-2-methoxy-pyridine | BrC=1C(=NC=C(C1)CBr)OC | C7H7Br2NO
